US05514691
5-Dimethylamino-N-(4-bromo-3-methyl-5-isoxazolyl)-1-naphthalenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 5-dimethylaminonaphthalenesulfonyl chloride according to the procedures described in Example 5. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 87°-89° C., yield 68%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-dimethylaminonaphthalenesulfonyl chloride | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl)C | C12H12ClNO2S
product | 5-Dimethylamino-N-(4-bromo-3-methyl-5-isoxazolyl)-1-naphthalenesulfonamide | yield 68% | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br)C | C16H16BrN3O3S
